US07091247B2
4) 3′-{({2-[4-(Aminosulfonyl)phenyl]ethyl}[(E)-3-phenyl-2-propenoyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide
3′-[{2-[4-(Aminosulfonyl)phenyl]ethyl}aminomethyl]-N-[2-(1-pyrrolidinyl)ethyl]-[1,1′-biphenyl]-3-carboxamide (506 mg), trans-cinnamic acid (163 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDCI.HCl; 211 mg) and 1-hydroxybenzotriazole (HOBT; 149 mg) were dissolved in a mixed solvent of dichloromethane (15 ml) and DMF (7 ml), and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure, and water was added to the residues which were then extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residues were purified by silica gel column chromatography (dichloromethane/methanol=98/2), whereby the title compound (284 mg) was obtained.

reactant | 3′-[{2-[4-(Aminosulfonyl)phenyl]ethyl}aminomethyl]-N-[2-(1-pyrrolidinyl)ethyl]-[1,1′-biphenyl]-3-carboxamide | 506 mg | NS(=O)(=O)C1=CC=C(C=C1)CCNCC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | C28H34N4O3S
reactant | trans-cinnamic acid | 163 mg | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 211 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 149 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3′-{({2-[4-(Aminosulfonyl)phenyl]ethyl}[(E)-3-phenyl-2-propenoyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide | NS(=O)(=O)C1=CC=C(C=C1)CCN(C(\C=C\C1=CC=CC=C1)=O)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | C37H40N4O4S
